US07250516B2
Aniline (1 ml) and toluene (66 ml) were added to ethyl 3-oxohexanoate (2.1 ml) and stirred at 120° C. overnight. After removing the solvent, sulfuric acid (40 ml) was added to the residue and stirred at 80° C. for seven hours. The reaction solution was put into ice and adjusted to pH=3, and the precipitated crystals were filtered out. Methyl iodide (3 ml), potassium carbonate (1.9 g) and DMF (20 ml) were added to the residue and stirred at room temperature for 26 hours. After removing the solvent, the reaction mixture was diluted with dichloromethane, washed with 1N hydrochloric acid and saturated sodium bicarbonate water and dried over magnesium sulfate to remove the solvent. The residue was purified with a silica gel chromatography (dichloromethane-methanol) to obtain 1-methyl-4-propyl-2(1H)-quinolinone (800 mg).

reactant | Aniline | 1 ml | NC1=CC=CC=C1 | C6H7N
reactant | ethyl 3-oxohexanoate | 2.1 ml | O=C(CC(=O)OCC)CCC | C8H14O3
reactant | toluene | 66 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-4-propyl-2(1H)-quinolinone | 800 mg | CN1C(C=C(C2=CC=CC=C12)CCC)=O | C13H15NO
